US08003647B2
4-(3-Cyano-6-hydroxyindol-1-yl)-2-methoxymethoxybenzoic acid ethyl ester
To a solution of 4-(6-benzyloxy-3-cyanoindol-1-yl)-2-methoxymethoxybenzoic acid ethyl ester in a mixed solvent of ethyl acetate (60 mL) and methanol (60 mL) was added palladium-carbon powder (0.61 g) under argon atmosphere at 0° C. and this mixture was stirred at 40° C. under a hydrogen atmosphere for 3 hours. The insoluble material was removed by filtration, and the filtrate was concentrated under reduced pressure to give the title compound (2.5 g)

reactant | 4-(6-benzyloxy-3-cyanoindol-1-yl)-2-methoxymethoxybenzoic acid ethyl ester | C(C)OC(C1=C(C=C(C=C1)N1C=C(C2=CC=C(C=C12)OCC1=CC=CC=C1)C#N)OCOC)=O | C27H24N2O5
reactant | ethyl acetate | 60 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium-carbon | 0.61 g | [C].[Pd]
solvent | methanol | 60 mL | CO | CH4O
product | 4-(3-Cyano-6-hydroxyindol-1-yl)-2-methoxymethoxybenzoic acid ethyl ester | 2.5 g | C(C)OC(C1=C(C=C(C=C1)N1C=C(C2=CC=C(C=C12)O)C#N)OCOC)=O | C20H18N2O5
